US04315000
A solution of 5.0 g of 1-(2,3,5-tri-O-acetyl-β-D-arabinofuranosyl)-1,5-dihydro-4H-imidazo[4,5-c]pyridine-4-thione, 200 ml of methanol, and 54 mg of sodium metholate is heated under reflux for 2 hours and treated with IRC-50 ion exchange resin. The filtrate is evaporated in vacuo and the resulting residue is recrystallized from ethanol-water to provide 1-β-D-arabinofuranosyl-1,5-dihydro-4H-imidazo[4,5-c]pyridine-4-thione.

reactant | 1-(2,3,5-tri-O-acetyl-β-D-arabinofuranosyl)-1,5-dihydro-4H-imidazo[4,5-c]pyridine-4-thione | 5.0 g | C(C)(=O)O[C@@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C=NC=2C(NC=CC21)=S | C17H19N3O7S
reactant | sodium | 54 mg | [Na] | Na
solvent | methanol | 200 ml | CO | CH4O
product | 1-β-D-arabinofuranosyl-1,5-dihydro-4H-imidazo[4,5-c]pyridine-4-thione | [C@@H]1([C@@H](O)[C@H](O)[C@H](O1)CO)N1C=NC=2C(NC=CC21)=S | C11H13N3O4S
